US04049808
A mixture of 1,2-epoxy-4-phenylbutane (1.48g.) and 2-aminoethyl hydrogen sulphate (7.05 g.) in methanol (7.5 ml.) and sodium hydroxide solution (18N, 2.8 ml.) is stirred at ambient temperature for 2 hours. The 2-(2-hydroxy-4-phenylbutyl)aminoethyl hydrogen sulphate formed as intermediate is not isolated but is cyclised in situ as follows:

reactant | 1,2-epoxy-4-phenylbutane | 1.48g | O1CC1CCC1=CC=CC=C1 | C10H12O
reactant | 2-aminoethyl hydrogen sulphate | 7.05 g | S(=O)(=O)(OCCN)O | C2H7NO4S
solvent | methanol | 7.5 ml | CO | CH4O
solvent | sodium hydroxide | 18N, 2.8 ml | [OH-].[Na+]
product | 2-(2-hydroxy-4-phenylbutyl)aminoethyl hydrogen sulphate | S(=O)(=O)(OCCNCC(CCC1=CC=CC=C1)O)O | C12H19NO5S
